US06838478B2
(i) 2-Chloro-5-(Boc-amino)benzyl alcohol
To an ice-cold solution of 5-amino-2-chlorobenzoic acid (9.0 g; 33 mmol) in THB:DMF (200 mL; 1:1) was added TEA (4.0 g; 40 mmol), followed by isobutyl chloroformate (5.4 g; 40 mmol; added dropwise). The mixture was then stirred for another 30 minutes, the white precipitate formed was removed by filtration, the filtrate was cooled to −15° C., and NaBH4 (3.8 g; 100 mmol) and water (20 mL) were added. After 15 minutes, water (200 mL) was added and the solution was stirred at room temperature for 1 hour. After evaporation, the residue was dissolved in MeOH. Filtration and concentration gave the crude product which was purified by flash chromatography (Si-gel, CH2Cl2:MeOH (9:1)) resulting in 7.4 g (87%) of the subtitle compound.

reactant | 5-amino-2-chlorobenzoic acid | 33 mmol, 9.0 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 100 mmol, 3.8 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | water | 20 mL | O | H2O
product | 2-Chloro-5-(Boc-amino)benzyl alcohol | 7.4 g, 87% | ClC1=C(CO)C=C(C=C1)NC(=O)OC(C)(C)C | C12H16ClNO3
